US04349684
9-[3-(4-Chlorophenyl)-2-oxo-4-phenyl-4-imidazolin-1-yl] pelargonic acid
The product is produced as described in example 18 from 4.4 g of 9-[3-(4-chlorophenyl)-2-oxo-4-phenyl-4-imidazolin-1-yl] pelargonic acid methyl ester and 0.4 g of NaOH in 20 cc. of methanol. Further purification by chromatography on silicic acid gel using chloroform as eluant.

reactant | 9-[3-(4-chlorophenyl)-2-oxo-4-phenyl-4-imidazolin-1-yl] pelargonic acid methyl ester | 4.4 g | COC(CCCCCCCCN1C(N(C(=C1)C1=CC=CC=C1)C1=CC=C(C=C1)Cl)=O)=O | C25H29ClN2O3
reactant | NaOH | 0.4 g | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 9-[3-(4-Chlorophenyl)-2-oxo-4-phenyl-4-imidazolin-1-yl] pelargonic acid | ClC1=CC=C(C=C1)N1C(N(C=C1C1=CC=CC=C1)CCCCCCCCC(=O)O)=O | C24H27ClN2O3
